US06476016B2
5. 3-Bromo-1-(ethoxycarbonylmethyl)-6-methylpyrazinone
A slurry of 1-(ethoxycarbonylmethyl)-3-hydroxy-6-methylpyrazinone (4.24 g, 20 mmol), as prepared in the preceding step, and phosphorous oxybromide (6.3 g, 22 mmol) in chloroform (15 mL) was stirred at 50° C. under nitrogen for 2 hours, then allowed to cool to room temperature overnight. The reaction mixture was diluted with dichloromethane and ice-water, basified with ammonium hydroxide, and extracted with dichloromethane. The combined organic layers were washed with brine, dried over Na2SO4, treated with activated carbon, filtered and concentrated. The solid was collected, washed with 15% ethyl acetate in hexane, and dried under high vacuum to give the title compound as an orange colored solid (5.1 g, 93%). 1H NMR (400 MHz, CDCl3) δ 7.06 (s, 1H), 4.77 (s, 2H), 4.26 (q, 2 H, J=7.1 Hz), 2.24 (s, 3H), 1.31 (t, 3H, J=7.1 Hz).

reactant | 1-(ethoxycarbonylmethyl)-3-hydroxy-6-methylpyrazinone | 20 mmol, 4.24 g | C(C)OC(=O)CN1C(C(=NC=C1C)O)=O | C9H12N2O4
reactant | phosphorous oxybromide | 22 mmol, 6.3 g | P(=O)(Br)(Br)Br | Br3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-1-(ethoxycarbonylmethyl)-6-methylpyrazinone | 5.1 g, 93% | BrC=1C(N(C(=CN1)C)CC(=O)OCC)=O | C9H11BrN2O3
